US08030305B2
A solution of 4-iodo-benzene-1,2-diamine (0.46 g, 1.96 mmol), ethanedial [40% in water] (2.25 mL), acetic acid (1 mL) and ethanol (20 mL) were heated to 100° C. for several hours and then cooled to room temperature. Water was added and the crude product was extracted with ethyl acetate. The product was purified via silica gel column chromatography with hexane:ethyl acetate (1:1) to give 0.323 g (64%) of 6-iodo-quinoxaline.

reactant | 4-iodo-benzene-1,2-diamine | 1.96 mmol, 0.46 g | IC=1C=C(C(=CC1)N)N | C6H7IN2
reactant | ethanedial | 2.25 mL | C(C=O)=O | C2H2O2
reactant | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
reactant | ethanol | 20 mL | C(C)O | C2H6O
solvent | Water | O | H2O
product | 6-iodo-quinoxaline | 0.323 g, 64% | IC=1C=C2N=CC=NC2=CC1 | C8H5IN2
